US05541199
7-{3-[(7-Hydroxy-chroman-2-ylmethyl-amino]-propanoxy}-quinoline
A solution of 7-{3-[(7-methoxy-chroman-2-ylmethyl-amino]-propanoxy}-quinoline (2.19 g, 5.7 mmol) in 48% aqueous HBr was heated to reflux for 3 hours. The reaction mixture was then allowed to cool to room temperature and basified with 1N sodium hydroxide until pH 12. The basic reaction mixture was extracted with ethyl acetate (2×100 mL), dried over anhydrous magnesium sulfate, filtered, and the solvent removed under vacuum. Chromatography (7% methanol in methylene chloride containing 1% ammonium hydroxide) afforded 1.34 g of the title compound (63% yield). The corresponding oxalate salt was prepared by adding an excess of oxalic acid in warm ethanol to a solution of the free base in warm ethanol; mp 195.5°-196.5° C.

reactant | 3-[(7-methoxy-chroman-2-ylmethyl-amino]-propanoxy}-quinoline | 5.7 mmol, 2.19 g | COC1=CC=C2CCC(OC2=C1)CNCCCOC=1C=NC2=CC=CC=C2C1 | C23H26N2O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | HBr | Br | BrH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[(7-Hydroxy-chroman-2-ylmethyl-amino]-propanoxy}-quinoline | 1.34 g, 63% yield | OC1=CC=C2CCC(OC2=C1)CNCCCOC=1C=NC2=CC=CC=C2C1 | C22H24N2O3
